US09079853B2
5-chloro-3-(2-(2,6-dimethoxypyridin-3-yl)-2-oxoethyl)-3-hydroxy-1-propylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-chloro-1-propylindoline-2,3-dione and 1-(2,6-dimethoxypyridin-3-yl)ethanone (purchased from Fisher Scientific). 1H-NMR δ 8.12 (d, 1H), 7.39 (s, 1H), 7.27 (d, 1H), 6.80 (d, 1H), 6.35 (d, 1H) 4.63 (bs, OH), 4.00 (s, 3H), 3.83 (s, 3H), 3.71 (d, 1H), 3.68 (m, 2H), 3.47 (d, 1H), 1.73 (m, 2H), 0.99 (t, 3H). Calculated mass for C20H21ClN2O5, 404.11. Observed 427.1 (M+Na)

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
reactant | 1-(2,6-dimethoxypyridin-3-yl)ethanone | COC1=NC(=CC=C1C(C)=O)OC | C9H11NO3
product | 5-chloro-3-(2-(2,6-dimethoxypyridin-3-yl)-2-oxoethyl)-3-hydroxy-1-propylindolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)(O)CC(=O)C=1C(=NC(=CC1)OC)OC | C20H21ClN2O5
